US03996352
Preparation of N-(6-Methoxy-3-pyridyl)-α-chloroacetamide
A solution of 3-amino-6-methoxypyridine (25.0 grams) in absolute ether (160 ml) was charged into a glass reaction flask equipped with a mechanical stirrer, dropping funnel and thermometer. The solution was cooled to a temperature of about 0° C and pyridine (18.1 ml) was added thereto. A solution of chloroacetyl chloride (17.0 ml) in ether (40 ml) was then slowly added to the flask with stirring over a period of about 15 minutes resulting in the formation of a precipitate. The temperature of the reaction mixture was kept between about 0° to 5° C during the addition of the chloroacetyl chloride. After completion of the addition stirring was continued for a period of about 30 minutes. The solid precipitate which had formed was then recovered by filtration and was washed with aqueous sodium bicarbonate and then with water. The washed product was then dried to yield the desired product N-(6-methoxy-3-pyridyl)-α-chloroacetamide as a white solid having a melting point of 117° to 118° C.

reactant | 3-amino-6-methoxypyridine | 25.0 grams | NC=1C=NC(=CC1)OC | C6H8N2O
reactant | pyridine | 18.1 ml | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 17.0 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | ether | 160 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | N-(6-methoxy-3-pyridyl)-α-chloroacetamide | COC1=CC=C(C=N1)NC(CCl)=O | C8H9ClN2O2
